US08580957B2
1-Methylethyl[(2S,4R)-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate
1-Methylethyl {(3S)-3-[(4-bromophenyl)amino]butanoyl}carbamate (for a preparation see Intermediate 102) (17.9 g, 52.2 mmol) was taken up in ethanol (150 mL) and cooled to below −10° C. (internal temperature) in a CO2/acetone bath. NaBH4 (1.381 g, 36.5 mmol) was added followed by magnesium chloride hexahydrate (11.35 g, 55.8 mmol) in water (25 mL) keeping the temperature below −5° C. The mixture was allowed to stir at <0° C. for 1 h then warmed to room temperature and stirred for an hour. The resulting thick suspension was poured into a mixture of citric acid (25.05 g, 130 mmol), HCl (1M in water, 205 mL, 205 mmol) and dichloromethane (DCM) (205 mL). The biphasic mixture was stirred at room temperature for 1 h. LCMS showed no remaining starting material so the layers were separated and the organic layer dried with Na2SO4, filtered and concentrated to yield the product as a light brown solid (14.1 g).

reactant | 1-Methylethyl {(3S)-3-[(4-bromophenyl)amino]butanoyl}carbamate | BrC1=CC=C(C=C1)N[C@H](CC(=O)NC(OC(C)C)=O)C | C14H19BrN2O3
reactant | NaBH4 | 36.5 mmol, 1.381 g | [BH4-].[Na+]
reactant | magnesium chloride hexahydrate | 55.8 mmol, 11.35 g | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | citric acid | 130 mmol, 25.05 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | HCl | 205 mmol, 1M, 205 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
solvent | dichloromethane | 205 mL | ClCCl | CH2Cl2
product | 1-Methylethyl[(2S,4R)-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate | 14.1 g | CC(C)OC(N[C@@H]1C[C@@H](NC2=CC=C(C=C12)Br)C)=O | C14H19BrN2O2
